US08017601B2
3-bromo-4-methylbenzamide
3-bromo-4-methylbenzoic acid (3.12 g, 14.5 mmol) was dissolved in DMF (26 ml) and EDC (3.51 g, 18.3 mmol), HOAt (2.79 g, 20.5 mmol), ammonium chloride (3.05 g, 57.0 mmol), and diisopropylethylamine (7.5 ml, 43.1 mmol) were added. The reaction was stirred at room temperature over the weekend, and then poured into water (100 ml), and diluted with more water. The resultant precipitate was filtered, washed with water, collected as a solution in EtOAc, and concentrated to give title compound (858.7 mg, 28%). MS (ESI pos. ion) m/z: 214 (M+H). Calc'd Exact Mass for C8H8BrNO: 213.

reactant | 3-bromo-4-methylbenzoic acid | 14.5 mmol, 3.12 g | BrC=1C=C(C(=O)O)C=CC1C | C8H7BrO2
reactant | EDC | 18.3 mmol, 3.51 g
reactant | HOAt | 20.5 mmol, 2.79 g | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
reactant | ammonium chloride | 57.0 mmol, 3.05 g | [Cl-].[NH4+]
reactant | diisopropylethylamine | 43.1 mmol, 7.5 ml | C(C)(C)N(CC)C(C)C | C8H19N
solvent | DMF | 26 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
solvent | water | 100 ml | O | H2O
product | 3-bromo-4-methylbenzamide | 858.7 mg, 28% | BrC=1C=C(C(=O)N)C=CC1C | C8H8BrNO
